US05977392
To a solution of 2.3 g (12.1 mmol) of titanium tetrachloride in dichlomethane, 3 g (12.1 mmol) of 1-dichloromethylsilyl-1-trimethylsilyl cyclopentadiene is added dropwise at 25° C. The reaction is stirred for two days at room temperature. The solvent is evaporated to dryness and the residue is extracted with hexane. When the hexane solution is concentrated, a yellow solid corresponding to (1-dichloromethylsilyl cyclopentadienyl) titanium trichloride is obtained (2 g, 6 mmol, yield: 50%). 1H-NMR (C6D6): 6.47 (m,2H), 5.49(m,2H), 0.70(s,3H).

reactant | titanium tetrachloride | 12.1 mmol, 2.3 g | [Ti](Cl)(Cl)(Cl)Cl
reactant | 1-dichloromethylsilyl-1-trimethylsilyl cyclopentadiene | 12.1 mmol, 3 g | ClC(Cl)[SiH2]C1(C=CC=C1)[Si](C)(C)C | C9H16Cl2Si2
product | (1-dichloromethylsilyl cyclopentadienyl) titanium trichloride | yield: 50% | [Cl-].[Cl-].[Cl-].ClC(Cl)[SiH2]C1(C=CC=C1)[Ti+3] | InChI=1S/C6H7Cl2Si.3ClH.Ti/c7-6(8)9-5-3-1-2-4-5;;;;/h1-4,6H,9H2;3*1H;/q;;;;+3/p-3
